US04878940
A solution of 8.5 parts of 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1Himidazole-5-methanol mononitrate and 17 parts of manganese(IV) oxide in 50 parts of 1,4-dioxane was stirred for 10 hours at 90° C. The reaction mixture was filtered and the filtrate was evaporated. The residue was converted into the nitrate salt in 2-propanone and 2,2'-oxybispropane. The salt was filtered off and dried, yielding 5.9 parts (53.6%) of 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxaldehyde mononitrate; mp. 161.6° C. (compound 2.05).

reactant | 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1Himidazole-5-methanol mononitrate | [N+](=O)([O-])OCC1=CN=CN1C1CCCC2=CC=CC=C12 | C14H15N3O3
catalyst | manganese(IV) oxide | [O-2].[Mn+4].[O-2]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxaldehyde mononitrate | 53.6% | [N+](=O)(O)[O-].C1(CCCC2=CC=CC=C12)N1C=NC=C1C=O | InChI=1S/C14H14N2O.HNO3/c17-9-12-8-15-10-16(12)14-7-3-5-11-4-1-2-6-13(11)14;2-1(3)4/h1-2,4,6,8-10,14H,3,5,7H2;(H,2,3,4)
